US04008260
582.5 grams cobalt(II)acetylacetonate, made from cobalt dichloride and acetylacetone by reaction with ammonia, having a water content of 11.7% by weight, corresponding to 509.6 grams of the anhydrous compound, were dissolved in 2 liters of methanol at room temperature and thereto 210 grams of acetylacetone were added at 35° C, while stirring. Subsequently, to the clear solution 150 grams hydrogen peroxide of about 30% were added within 8 minutes, which led to an increase in temperature of the solution to 65° C. The solution was then stirred at 65° C for about 30 minutes, and another 80 grams of about 30% hydrogen peroxide were added until the solution had turned to a clear green color. Thereafter, the reaction mixture was heated to reflux for one hour, cooled to 3° C, and the precipitated cobalt(III)acetylacetonate filtered and washed with 100 ml of cold methanol. After drying at 5 torr/80° C for 5 hours, 539 grams cobalt(III)acetylacetonate were obtained (corresponding to 75.7% of the theoretical). The product was black and shining, and of finely-crystalline structure, and having a water content of less than 0.05% by weight.

reactant | cobalt(II)acetylacetonate | 582.5 grams | C/C(=C\C(=O)C)/O.C/C(=C/C(=O)C)/O.[Co]
reactant | cobalt dichloride | [Co](Cl)Cl
reactant | acetylacetone | C(C)(=O)CC(C)=O | C5H8O2
reactant | ammonia | N | H3N
reactant | acetylacetone | 210 grams | C(C)(=O)CC(C)=O | C5H8O2
reactant | hydrogen peroxide | OO | H2O2
reactant | hydrogen peroxide | 80 grams | OO | H2O2
solvent | methanol | 2 liters | CO | CH4O
solvent | water | O | H2O
product | cobalt(III)acetylacetonate | 539 grams | CC(=O)CC(=O)C.CC(=O)CC(=O)C.CC(=O)CC(=O)C.[Co] | InChI=1S/3C5H8O2.Co/c3*1-4(6)3-5(2)7;/h3*3H2,1-2H3;
